US05384192
In a 2 L Erlenmeyer flask, 140 g (2.5 mol) of KOH was dissolved in 250 mL of water, and the solution was diluted with 250 mL of methanol and 10 mL of tetramethylammoniumhydroxide. Then, 110 g (0.50 mol) of 4-(t-butyloxycarbonyloxy)styrene (tBOCstyrene) was added and the mixture heated to boiling. After 5-8 minutes, the mixture cleared to a yellow solution and was cooled by the addition of 500 mL of a 1/1 ice-water mixture. This mixture was washed with 250 mL of dichloromethane and 250 mL of ethyl ether. The pH of the aqueous solution was reduced to 11-12 by the addition of dry ice, resulting in the formation of a cream colored precipitate (4-vinylphenol) in a yellow solution.

reactant | KOH | 2.5 mol, 140 g | [OH-].[K+]
reactant | 4-(t-butyloxycarbonyloxy)styrene | 0.50 mol, 110 g | C(C)(C)(C)OC(=O)OC1=CC=C(C=C)C=C1 | C13H16O3
solvent | water | 250 mL | O | H2O
solvent | methanol | 250 mL | CO | CH4O
solvent | tetramethylammoniumhydroxide | 10 mL | [OH-].C[N+](C)(C)C
product | 4-vinylphenol | C(=C)C1=CC=C(C=C1)O | C8H8O
